US09315542B2
(2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 6-(acetylthio)hexanoate
A solution of N—((S)-1-(((S)-1-(((2S,4S)-4-Hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide (300 mg, 0.45 mmol) and DMAP (166 mg, 1.5 mmol) in pyridine (15 mL) was kept in a 30° C. oil bath. 6-(Acetylthio)hexanoic anhydride (ca 7 mmol) in pyridine (1 mL) was added and the mixture was stirred 30 min at 30° C. It was diluted with water (20 mL) and dichloromethane (150 mL). The dichloromethane layer was separated and washed with 1N HCl (20 mL) and brine (20 mL). It was dried over sodium sulfate then concentrated to dryness. The residue was purified on silica gel column (dichloromethane:ethyl acetate=1.5:1) to give product as a pale yellow powder (150 mg, 18%); MS for C33H45IN4O9S2 m/z: 833 (M-+H)+.

reactant | N—((S)-1-(((S)-1-(((2S,4S)-4-Hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide | 0.45 mmol, 300 mg | O[C@@](C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)(CI)C | C25H33IN4O7S
reactant | 6-(Acetylthio)hexanoic anhydride | ca 7 mmol | C(C)(=O)SCCCCCC(=O)OC(CCCCCSC(C)=O)=O | C16H26O5S2
catalyst | DMAP | 1.5 mmol, 166 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 20 mL | O | H2O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | (2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 6-(acetylthio)hexanoate | 150 mg, 18% | C(C)(=O)SCCCCCC(=O)O[C@](CI)(C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)C | C33H45IN4O9S2
